US07378448B2
Metachloroperbenzoic Acid (1.2 g, 4.1 mmol) was added to a solution of {2-[4-(4-acetyl-phenoxy)-phenyl]-ethyl}-carbamic acid ethyl ester (1.0 g, 3.1 mmol) in chloroform (75 mL). Stirred at room temperature for 72 hours, quenched with saturated aqueous Na2S2O3, then extracted with dichloromethane (3×75 mL). The combined dichloromethane extracts were dried over sodium chloride/magnesium sulfate, filtered, and concentrated on a rotary evaporator to yield the crude product (2 g). The crude product was purified by flash column chromatography on silica gel eluting with ethyl acetate and hexanes to yield Acetic acid 4-[4-(2-ethoxycarbonylamino-ethyl)-phenoxy]-phenyl ester (430 mg). 1H NMR (CDCl3, 300.00 MHz): 7.19-6.92 (m, 8H), 4.98 (s, 1H), 4.17-4.07 (m, 2H), 3.42 (q, 2H, J=6.6 Hz), 2.79 (t, 2H, J=7.2 Hz), 2.29 (s, 3H), 1.30-1.20 (m, 3H), 1.30-1.20 (m, 3H), 1.30-1.20 (m, 3H).

reactant | Metachloroperbenzoic Acid | 4.1 mmol, 1.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | {2-[4-(4-acetyl-phenoxy)-phenyl]-ethyl}-carbamic acid ethyl ester | 3.1 mmol, 1.0 g | C(C)OC(NCCC1=CC=C(C=C1)OC1=CC=C(C=C1)C(C)=O)=O | C19H21NO4
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
product | Acetic acid 4-[4-(2-ethoxycarbonylamino-ethyl)-phenoxy]-phenyl ester | 430 mg | C(C)OC(=O)NCCC1=CC=C(OC2=CC=C(C=C2)OC(C)=O)C=C1 | C19H21NO5
